US05273986
A solution of 5.0 g of (E)-3-[2-[4-(cyclopropyl)-2-thiazolyl]ethenyl]benzeneamine, 3.35 g of homophthalic anhydride, and 100 ml of toluene was heated to reflux for 0.5 hr. After cooling, the solids that formed were collected by filtration and this material was triturated with ethyl ether to yield 7.4 g of (E)-2-[2-[3-[2-[4-(cyclopropyl)-2-thiazolyl]ethenyl]phenylamino]-2-oxoethyl]benzoic acid. Recrystallization from acetonitrile yielded 5.1 g of material; m.p. 200°-201° C. Anal. Calcd for C23H20N2O3S: C, 68.30; H, 4.98; N, 6.93. Found: C, 67.92; H, 4.97; N, 6.83.

reactant | (E)-3-[2-[4-(cyclopropyl)-2-thiazolyl]ethenyl]benzeneamine | 5.0 g | C1(CC1)C=1N=C(SC1)/C=C/C=1C=C(C=CC1)N | C14H14N2S
reactant | homophthalic anhydride | 3.35 g | C1(CC=2C(C(=O)O1)=CC=CC2)=O | C9H6O3
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | (E)-2-[2-[3-[2-[4-(cyclopropyl)-2-thiazolyl]ethenyl]phenylamino]-2-oxoethyl]benzoic acid | 7.4 g | C1(CC1)C=1N=C(SC1)/C=C/C=1C=C(C=CC1)NC(CC1=C(C(=O)O)C=CC=C1)=O | C23H20N2O3S
